US09315521B2
To a solution of sodium borohydride (457 mg, 12.1 mmol) in methanol (25 mL) was added a solution of 1,2-dimethyl-1H-imidazole-5-carbaldehyde (1.0 g, 8.1 mmol) in methanol (10 mL) at 0° C. The mixture was stirred overnight at room temperature. The solvent was evaporated, and crude (1,2-dimethyl-1H-imidazol-5-yl)methanol was obtained and used in the next step without purification; 1H NMR (400 MHz, DMSO-d6): δ 2.22 (s, 3H), 3.45 (s, 3H), 4.34 (s, 2H), 5.05 (bs, 1H), 6.57 (s, 1H).

reactant | sodium borohydride | 12.1 mmol, 457 mg | [BH4-].[Na+]
reactant | 1,2-dimethyl-1H-imidazole-5-carbaldehyde | 8.1 mmol, 1.0 g | CN1C(=NC=C1C=O)C | C6H8N2O
solvent | methanol | 25 mL | CO | CH4O
solvent | methanol | 10 mL | CO | CH4O
product | (1,2-dimethyl-1H-imidazol-5-yl)methanol | CN1C(=NC=C1CO)C | C6H10N2O
